US07253165B2
Synthesis of 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole (Scheme III, Compound 4)
Combine 4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenol (2.00 g, 8.726 mmol) and potassium carbonate (1.81 g, 13.088 mmol) in 1,2-dibromoethane (9.70 mL) and heat at reflux for 6 hours. Cool reaction mixture to room temperature and dilute with ethyl acetate (150 mL) and wash with water (50 mL), 10% HCl (50 mL), water (50 mL), saturated sodium chloride (50 mL), dry (MgSO4), filter and evaporate. Purify the residue by column chromatography (5% ethyl acetate in heptane) to obtain the title compound as a white solid (1.21 g, 41% Yield).

reactant | 4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenol | 8.726 mmol, 2.00 g | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)O)C=C1 | C13H8FNO2
reactant | potassium carbonate | 13.088 mmol, 1.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 9.70 mL | BrCCBr | C2H4Br2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | 1.21 g, 41% Yield | BrCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C15H11BrFNO2
